US07125901B2
A mixture of N-{4-[2-(4-{[(benzoylamino)carbonothioyl]amino}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide (200 mg), 6N aqueous sodium hydroxide (0.19 ml) and ethanol (2 ml) was stirred at 60° C. for 2 hours. The reaction mixture was cooled to ambient temperature and neutralized with 1N hydrochloric acid (1.2 ml). The precipitated crystals were filtered and washed with water to give N-[4-(2-{4-[(aminocarbonothioyl)amino]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (120 mg).

reactant | N-{4-[2-(4-{[(benzoylamino)carbonothioyl]amino}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 200 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C21H20N4O2S2
reactant | sodium hydroxide | 6N, 0.19 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-[4-(2-{4-[(aminocarbonothioyl)amino]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 120 mg | NC(=S)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H16N4OS2
